2124-01-29 10:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-1-29**] 02:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-29**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.7
C (96.2
   HR: 90 (85 - 102) bpm
   BP: 118/64(78) {78/34(44) - 118/94(84)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           2,246 mL
   PO:
           TF:
   IVF:
   96 mL
   Blood products:
   750 mL
   Total out:
                                                                      0 mL
                                                                    675 mL
   Urine:
   275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,571 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   8.5 g/dL
   25.2 %
   9.5 K/uL
        [image002.jpg]
                             [**2124-1-29**]  12:30 AM
                             [**2124-1-29**]  07:20 AM
   WBC
   9.5
   Hct
   21.2
   25.2
   Plt
   142
   Other labs: PT / PTT / INR:12.4/22.5/1.0
   Assessment and Plan
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-1-29**] 02:25 AM
   18 Gauge - [**2124-1-29**] 07:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-01-29 15:04:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
                            History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-1-29**] 02:25 AM
   Other medications:
   Flowsheet Data as of  [**2124-1-29**] 02:58 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 96 (81 - 102) bpm
   BP: 72/56(60) {72/34(44) - 138/115(121)} mmHg
   RR: 23 (5 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           2,508 mL
   PO:
           100 mL
   TF:
   IVF:
   225 mL
   Blood products:
   783 mL
   Total out:
                                                                      0 mL
                                                                    950 mL
   Urine:
   550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,558 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   HR 96, sat 100% on 2 l/min O2, now 98% on RA, oriented x 1
   Pale conjunctiva, no JVD, lungs CTA, no heart murmurs, abd  soft,
   nontender to deep palpation, no LE edema
   Labs / Radiology
   8.5 g/dL
   142 K/uL
   110 mg/dL
   1.6 mg/dL
   22 mEq/L
   4.4 mEq/L
   70 mg/dL
   113 mEq/L
   144 mEq/L
   23.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2124-1-29**]  12:30 AM
                             [**2124-1-29**]  07:20 AM
                             [**2124-1-29**]  12:45 PM
   WBC
   9.5
   Hct
   21.2
   25.2
   23.5
   Plt
   142
   Cr
   1.6
   TropT
   <0.01
   <0.01
   Glucose
   110
   Other labs: PT / PTT / INR:12.4/22.5/1.0, CK / CKMB /
   Troponin-T:55//<0.01, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   87 yr old with advanced Alzheimer
s, CKD, prostate ca, hx of UGI
   bleed/mild gastritis
   UGIB.
   VSS, no period of hypotension.
   Given protonix IV and 2L NS.
   CRF with Cr 1.9, which is near baseline.
   No continued bleeding overnight or today.
   NPO
   + 1.5L over 12 h (received 2L in ED, 2U PRBC in MICU)
   Hct 25.2 inc from 21.2 after 2U.
   CXR sl hyperinflated
   GI bleed, coffee ground NGL, likely esophagitis or gastritis.
   2U PRBC given.
   Continue f/u hct.
   Plan for EGD Monday, but GI closely involved and will do emergently if
   necessary.
   Labs: Hct 26.3
 21.2
 2U and 25
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-1-29**] 12:47 AM
   20 Gauge - [**2124-1-29**] 02:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: 30 min
   Critically ill

2124-01-30 06:25:00 Physician Resident Progress Note
Chief Complaint:  unable to interpret
   24 Hour Events:
   Pt had melanotic stool yesterday afternoon. Hct dropped from 25.2 to
   23.5. Rpt Hct 24.7.Tx 1 unit bumped to 27.8. Intermittently agitated
   throughout the day and night requiring multiple one time doses of
   seroquel/zyprexa. Spoke w/ GI multiple times who is deffering scope
   until Monday unless HD unstable or large Hct drop.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-30**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 112 (81 - 120) bpm
   BP: 105/77(78) {72/49(43) - 138/115(121)} mmHg
   RR: 20 (5 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,342 mL
                                                                     50 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    367 mL
                                                                     50 mL
   Blood products:
                                                                  1,475 mL
   Total out:
                                                                  1,250 mL
                                                                    200 mL
   Urine:
                                                                    850 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,092 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   Gen: AOX0, mumbling, not answering questions coherently. In 2-point
   restraints
   HEENT: mmm
   Cards: rrr, no m/r/g
   Resp: CTA anteriorly
   Abd: soft, nt/nd, +BS, no organomegaly
   Ext: WWP, no c/c/e
   Labs / Radiology
   120 K/uL
   9.0 g/dL
   148 mg/dL
   1.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   68 mg/dL
   118 mEq/L
   146 mEq/L
   24.9 %
   9.9 K/uL
        [image002.jpg]
                             [**2124-1-29**]  12:30 AM
                             [**2124-1-29**]  07:20 AM
                             [**2124-1-29**]  12:45 PM
                             [**2124-1-29**]  06:40 PM
                             [**2124-1-29**]  11:43 PM
                             [**2124-1-30**]  03:43 AM
   WBC
   9.5
   9.9
   Hct
   21.2
   25.2
   23.5
   24.7
   27.8
   24.9
   Plt
   142
   120
   Cr
   1.6
   1.7
   TropT
   <0.01
   <0.01
   Glucose
   110
   148
   Other labs: PT / PTT / INR:12.4/22.5/1.0, CK / CKMB /
   Troponin-T:55//<0.01, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assessment and Plan: 87 year old M Alzheimer
s, prostate cancer,
   chronic kidney disease who presents with shortness of breath and found
   to have grossly heme positive stool with acute HCT drop.
   # GI bleed: Plan per GI is for non-emergent scope on Monday to eval for
   source of bleeding, or emergent scope over the weekend if the Pt is
   demonstrating hemodynamic instability or has significant hct drop.
   Etiology  of bleed is most likely esophagitis, gastritis versus peptic
   ulcer disease. Other possibilities but less likely neoplastic disease,
   varices and vascular malformations. Patient has distant GI bleed
   history secondary to superficial ulcer and gastritis ([**2107**]). Patient on
   no anticoagulants with normal coags.
   - Plan for scope tomorrow
   - Cont to follow Hct q6, transfuse for Hct<25 or for any signs of end
   organ ischemia
   - Large bore IV x 2 (18 gauge) but tenuous
   - Make sure remains cross matched for 4 units
   - Cont protonix gtt
   - Hold ASA
   - Touch base with GI , see if they have reassessed and are planning on
   scoping today
   # Alzheimer's: Continue Namenda 10 mg [**Hospital1 **].
   - Seroquel 12.5 mg [**Hospital1 **]
   - PRN Olanzapine for agitation
   - 1:1 sitter as needed
   - EKGs to track QT interval
   # Shortness of breath: In setting of GI bleed most likely symptomatic
   anemia. No acute abnormality or infiltrate on CXR. No history of chest
   pain to suggest ACS, however patient does have DM/HTN risk factors. No
   history of heart failure or evidence on exam.
   - Now ruled out by serial cardiac enzymes and has been chest pain free
   # Chronic renal failure: Creatinine this AM 1.7, at baseline
   - Continue to trend
   # Hyperglycemia: Prior admission patient has been on sliding scale,
   however is not on any diabetic medications. [**Month (only) 8**] be a risk versus
   benefit decision by primary care doctor.
   - Sliding scale while in house
   - Send A1C
   # Depression: Continue Seroquel.
   # BPH: Hold Flomax in setting of hypotension.
   # Hypertension: Though listed as past medical problem, not on any
   medications.
   # Prostate cancer: No recent record. Appears to have been treated and
   not currently active.
   # Pain: Continue gabapentin. Hold tramadol as may cause hypotension.
   # Med Rec: Hold lasix, Ambien. Continue folic acid.
   # FEN: pRBC, replete electrolytes, NPO
   # Prophylaxis: pneumoboots in setting of GI bleed
   # Access: peripherals X 2 large bore
   # Communication: Patient , daughter
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-1-29**] 12:47 AM
   20 Gauge - [**2124-1-29**] 02:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-01-31 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Transfused 1U yesterday evening (for 7 transfusions received total)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-31**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.9
C (100.2
F) (at 6pm [**1-30**])
   Tcurrent: 37
C (98.6
   HR: 104 (92 - 119) bpm
   BP: 137/92(103) {91/44(69) - 151/108(113)} mmHg
   RR: 24 (20 - 31) insp/min
   SpO2: 98% RA
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                    928 mL
                                                                    422 mL
   PO:
           TF:
   IVF:
                                                                    228 mL
                                                                     72 mL
   Blood products:
                                                                    700 mL
                                                                    350 mL
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    328 mL
                                                                    422 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General: mumbling incoherently, somewhat agitated
   CV: Regular rate and rhythm
   Lungs: Clear to auscultation bilaterally.
   Abdomen: Distended but soft. Bowel sounds present but hypoactive.
   Grossly nontender, but exam limited due to patient
s mental sttus.
   Extremities: warm, well-perfused, no edema.
   Labs / Radiology
   128 K/uL
   8.9 g/dL
   177 mg/dL
   2.0 mg/dL
   19 mEq/L
   4.0 mEq/L
   76 mg/dL
   120 mEq/L
   148 mEq/L
   24.4 %
   13.1 K/uL
        [image002.jpg]
   Hct 24.2
 27.1                                               Ca 8.4,
   Mg 2.1, Phos 3.3
   WBC: 13.1
10.4
   Creatinine 2.0
 1.7 (baseline)
   LDH, haptoglobin, Bilirubin unremarkable for hemolysis.
                             [**2124-1-29**]  12:30 AM
                             [**2124-1-29**]  07:20 AM
                             [**2124-1-29**]  12:45 PM
                             [**2124-1-29**]  06:40 PM
                             [**2124-1-29**]  11:43 PM
                             [**2124-1-30**]  03:43 AM
                             [**2124-1-30**]  12:13 PM
                             [**2124-1-30**]  04:10 PM
                             [**2124-1-30**]  10:00 PM
                             [**2124-1-31**]  03:43 AM
   WBC
   9.5
   9.9
   10.4
   13.1
   Hct
   21.2
   25.2
   23.5
   24.7
   27.8
   24.9
   26.8
   24.6
   27.1
   24.4
   Plt
   142
   120
   134
   128
   Cr
   1.6
   1.7
   2.0
   TropT
   <0.01
   <0.01
   Glucose
   110
   148
   177
   Other labs: PT / PTT / INR:12.4/22.5/1.0, CK / CKMB /
   Troponin-T:55//<0.01, Alk Phos / T Bili:/0.7, LDH:139 IU/L, Ca++:8.4
   mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Assessment and Plan: 87 year old M Alzheimer
s, prostate cancer,
   chronic kidney disease who presents with shortness of breath and found
   to have grossly heme positive stool with acute HCT drop, awaiting EGD.
   # GI bleed: Per GI most likley upper GI source given PUD and positive
   lavage. Other possibilities include AVMs, malignancy. Plan for EGD
   today. Hct dropped from 27.1 --> 24.4
   - Plan for EGD today
   - Transfuse 1 U this AM for Hct goal > 25.
   - Cont to follow Hct q6h, transfuse for Hct<25 or for any signs of end
   organ ischemia
   - Large bore IV x 2 (18 gauge) but tenuous
   - Make sure remains cross matched for 4 units
   - Cont protonix gtt
   - Hold ASA
   # Alzheimer's: Continue Namenda 10 mg [**Hospital1 **].
   - Seroquel 12.5 mg [**Hospital1 **]
   - PRN Olanzapine for agitation
   - 1:1 sitter as needed
   - EKGs to track QT interval
   # Chronic renal failure: Creatinine this AM 1.7, at baseline. Slight
   increase to 2.0 today may indicate ongoing blood loss.
   - Continue to resuscitate with blood as above.
   - Continue to trend creatinine.
   #) Hypernatremia--likely secondary to fluid resuscitation with
   underlying renal insufficiency. Free-water deficit ~2.5. Getting 1L of
   D5W at 125cc/hr this AM
   - Follow-up Na after fluid infusion complete
   - [**Month (only) 8**] need to administer additional 1L of fluid if Na has not
   corrected.
   #) Leukocytosis--patient's WBC count increased from 10.4 --> 13.3. No
   localizing signs of infection and he has remained afebrile
   - Send urine (given history of BPH), c. diff, blood cultures if spikes
   - F/u AM CXR
   - Continue to trend WBC count and fever curve for signs of infection.
   # Shortness of breath: In setting of GI bleed most likely symptomatic
   anemia. No acute abnormality or infiltrate on CXR. No history of chest
   pain to suggest ACS, however patient does have DM/HTN risk factors. No
   history of heart failure or evidence on exam.
   - Now ruled out by serial cardiac enzymes and has been chest pain free
   # Hyperglycemia: Prior admission patient has been on sliding scale,
   however is not on any diabetic medications. [**Month (only) 8**] be a risk versus
   benefit decision by primary care doctor.
   - Sliding scale while in house
   - Send A1C
   # Depression: Continue Seroquel.
   # BPH: Hold Flomax in setting of hypotension.
   # Hypertension: Though listed as past medical problem, not on any
   medications.
   # Prostate cancer: No recent record. Appears to have been treated and
   not currently active.
   # Pain: Continue gabapentin. Hold tramadol as may cause hypotension.
   # Med Rec: Hold lasix, Ambien. Continue folic acid.
   # FEN: pRBC, replete electrolytes, NPO for procedure today.
   # Prophylaxis: pneumoboots in setting of GI bleed
   # Access: peripherals X 2 large bore, arterial line
   # Communication: Patient , daughter
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement

2124-01-31 11:33:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Blood Loss Anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   EGD this AM --> DU clipped
   24 Hour Events:
   1 additional unit pRBCs this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2124-1-31**] 09:05 AM
   Midazolam (Versed) - [**2124-1-31**] 09:25 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-1-31**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98
   HR: 87 (86 - 119) bpm
   BP: 122/74(84) {91/54(69) - 151/108(113)} mmHg
   RR: 28 (19 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    928 mL
                                                                    829 mL
   PO:
           TF:
   IVF:
                                                                    228 mL
                                                                    479 mL
   Blood products:
                                                                    700 mL
                                                                    350 mL
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    328 mL
                                                                    829 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   128 K/uL
   177 mg/dL
   2.0 mg/dL
   19 mEq/L
   4.0 mEq/L
   76 mg/dL
   120 mEq/L
   148 mEq/L
   27.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2124-1-29**]  07:20 AM
                             [**2124-1-29**]  12:45 PM
                             [**2124-1-29**]  06:40 PM
                             [**2124-1-29**]  11:43 PM
                             [**2124-1-30**]  03:43 AM
                             [**2124-1-30**]  12:13 PM
                             [**2124-1-30**]  04:10 PM
                             [**2124-1-30**]  10:00 PM
                             [**2124-1-31**]  03:43 AM
                             [**2124-1-31**]  09:37 AM
   WBC
   9.5
   9.9
   10.4
   13.1
   Hct
   25.2
   23.5
   24.7
   27.8
   24.9
   26.8
   24.6
   27.1
   24.4
   27.2
   Plt
   142
   120
   134
   128
   Cr
   1.6
   1.7
   2.0
   TropT
   <0.01
   <0.01
   Glucose
   110
   148
   177
   Other labs: PT / PTT / INR:11.9/21.7/1.0, CK / CKMB /
   Troponin-T:55//<0.01, Alk Phos / T Bili:/0.7, LDH:139 IU/L, Ca++:8.4
   mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   87 yr old with advanced Alzheimer
s, CKD, prostate ca, hx of UGI
   bleed/mild gastritis
94. Here with GI bleed/Blood loss anemia due to
   duodenal ulcer
   UGIB: s/p EGD this AM.  Cont to trens Hct.  Cont to monitor in MICU
   given risk of rebleed per GI
   Agitation: cont prn zyprexa
   Hypernatremia: Cont to replete fH20
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-1-29**] 02:25 AM
   18 Gauge - [**2124-1-30**] 01:52 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   Per GI team, duodenal lesion with significant oozing during endoscopy.
   Lesion at high risk of rebleeding.  Will keep Mr. [**Known lastname **] in the ICU given
   risk of rebleed.
   Pt is critically ill.  Time spent 32 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2124-1-31**] 12:35 ------

2124-02-01 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - EGD showed bleeding ulcers
   - Agitated in PM --> received haldol 0.5mg IV with good effect.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2124-1-31**] 09:05 AM
   Midazolam (Versed) - [**2124-1-31**] 09:25 AM
   Haloperidol (Haldol) - [**2124-1-31**] 05:37 PM
   Pantoprazole (Protonix) - [**2124-1-31**] 07:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-2-1**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 67 (67 - 116) bpm
   BP: 138/117(121) {87/42(57) - 142/117(121)} mmHg
   RR: 17 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,366 mL
                                                                    481 mL
   PO:
             TF:
   IVF:
                                                                  2,016 mL
                                                                    481 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,670 mL
                                                                    440 mL
   Urine:
                                                                  1,670 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General: awake, shaky
   CV: RRR, no m/r/g
   Lungs: CTAB with transmitted upper airway noises
   Abdomen: soft but slightly distended, hyperactive bowel sounds. No
   tenderness to palpation
   Extremities: warm, well-perfused, strong DP and radial pulses
   bilaterally.
   Labs / Radiology
   132 K/uL
   8.0 g/dL
   143 mg/dL
   2.2 mg/dL
   19 mEq/L
   3.8 mEq/L
   70 mg/dL
   118 mEq/L
   145 mEq/L
   24.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2124-1-29**]  11:43 PM
                             [**2124-1-30**]  03:43 AM
                             [**2124-1-30**]  12:13 PM
                             [**2124-1-30**]  04:10 PM
                             [**2124-1-30**]  10:00 PM
                             [**2124-1-31**]  03:43 AM
                             [**2124-1-31**]  09:37 AM
                             [**2124-1-31**]  02:52 PM
                             [**2124-1-31**]  09:10 PM
                             [**2124-2-1**]  02:43 AM
   WBC
   9.9
   10.4
   13.1
   10.7
   Hct
   27.8
   24.9
   26.8
   24.6
   27.1
   24.4
   27.2
   26.9
   25.2
   24.4
   Plt
   120
   134
   128
   132
   Cr
   1.7
   2.0
   2.6
   2.3
   2.2
   Glucose
   148
   177
   197
   125
   143
   Other labs: PT / PTT / INR:11.5/19.1/1.0, CK / CKMB /
   Troponin-T:55//<0.01, Alk Phos / T Bili:/0.7, LDH:139 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Assessment and Plan: 87 year old M Alzheimer
s, prostate cancer,
   chronic kidney disease who presents with shortness of breath and found
   to have grossly heme positive stool with acute HCT drop, s/p EGD
   showing numerous bleeding ulcers that were clotted
   # GI bleed: Most likely secondary to duodenal ulcers, now s/p clotting.
   Hematocrit slightly down-trending from 27.2 yesterday AM --> 24.4 most
   recently
   - Transfuse 1 more U for Hct >25
   - Change to Q8h Hct
   - Large bore IV x 2 (18 gauge) but tenuous
   - Make sure remains cross matched for 4 units
   - On protonix 40 [**Hospital1 **]
   - F/u with GI for any further recs
   - Hold ASA
   # Alzheimer's: Agitated yesterday and received Haldol 0.5mg IV with
   good result.
   - F/u AM EKG (last Qtc 404)
   - Continue Namenda 10mg [**Hospital1 **]
   - Seroquel 12.5 mg [**Hospital1 **]
   - PRN Olanzapine for agitation
   - 1:1 sitter as needed
   # Chronic renal failure: Creatinine increased from 2.0 --> 2.6
   yesterday, then started to down-trend in setting of having Foley placed
   with good urine output. Suspect obstructive/post-renal failure in
   setting of holding Flomax for BPH due to hypotension on arriva.
   Creatinine down-trending to 2.2 this AM, which is closer to this
   patient's baseline of 1.7. Urine lytes suggest possibly a pre-renal
   etiology as well, as FeNA was 0.8, but urine Na was 138. Negative urine
   eosinophils.
   - Resume home flomax today as BP is in acceptable range
   - Continue fluid resuscitation (receiving 1L D5W this AM).
   - F/u PM Creatinine
   #) Hypernatremia--Most likely related to low free water intake in
   setting of repeated blood transfusions and NPO status. Na most recently
   145, improved from 148 yesterday morning and after receiving 2L D5W.
   Getting 1 L more D5W.
   - Follow-up Na after fluid infusion complete
   - Diet advanced to clears.
   #) Leukocytosis--patient's WBC count yesterday 13.3, up from 10.4,
   although no localizing signs of infection and patient afebrile. Back
   down to 10.7 today. UA unremarkable.
   - Continue to monitor for signs of infection.
   # Hyperglycemia: Prior admission patient has been on sliding scale,
   however is not on any diabetic medications. [**Month (only) 8**] be a risk versus
   benefit decision by primary care doctor. HbA1c 6.5
   - Sliding scale while in house
   # Depression: Continue Seroquel.
   # BPH:
   - Resume flomax
   # Prostate cancer: No recent record. Appears to have been treated and
   not currently active.
   # Pain: Continue gabapentin. Hold tramadol as may cause hypotension.
   # Med Rec: Hold lasix, Ambien. Continue folic acid.
   # FEN:
   - Advance to full diet today
   # Prophylaxis: pneumoboots in setting of GI bleed
   # Access: peripherals X 2 large bore, arterial line
   - D/c arterial line today
   # Communication: Patient , daughter
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement. Can be called out
   today.

2124-02-01 11:23:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Blood Loss Aemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Improved urine output after Foley placement
   24 Hour Events:
 ENDOSCOPY - At [**2124-1-31**] 09:00 AM
   EGD done at bedside. & cautrized  the bleeding point. Received 1.5 mg
   Midaz, IV & Fentanyl 25 mcg, IV, Tolerated well.
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2124-1-31**] 05:37 PM
   Pantoprazole (Protonix) - [**2124-1-31**] 07:58 PM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-2-1**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 87 (67 - 116) bpm
   BP: 96/61(67) {87/42(57) - 142/117(121)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,366 mL
                                                                  1,131 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                  2,016 mL
                                                                  1,071 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,670 mL
                                                                    570 mL
   Urine:
                                                                  1,670 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                    561 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   132 K/uL
   143 mg/dL
   2.2 mg/dL
   19 mEq/L
   3.8 mEq/L
   70 mg/dL
   118 mEq/L
   145 mEq/L
   24.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2124-1-29**]  11:43 PM
                             [**2124-1-30**]  03:43 AM
                             [**2124-1-30**]  12:13 PM
                             [**2124-1-30**]  04:10 PM
                             [**2124-1-30**]  10:00 PM
                             [**2124-1-31**]  03:43 AM
                             [**2124-1-31**]  09:37 AM
                             [**2124-1-31**]  02:52 PM
                             [**2124-1-31**]  09:10 PM
                             [**2124-2-1**]  02:43 AM
   WBC
   9.9
   10.4
   13.1
   10.7
   Hct
   27.8
   24.9
   26.8
   24.6
   27.1
   24.4
   27.2
   26.9
   25.2
   24.4
   Plt
   120
   134
   128
   132
   Cr
   1.7
   2.0
   2.6
   2.3
   2.2
   Glucose
   148
   177
   197
   125
   143
   Other labs: PT / PTT / INR:11.5/19.1/1.0, CK / CKMB /
   Troponin-T:55//<0.01, Alk Phos / T Bili:/0.7, LDH:139 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   87 yr old with advanced Alzheimer
s, CKD, prostate ca, hx of UGI
   bleed/mild gastritis
94. Here with GI bleed/Blood loss anemia due to
   duodenal ulcer
   UGIB: s/p EGD yesterday.  Hct slightly down but hemodynamically
   stable.  Cont to trend Hcts.
   Agitation: cont prn zyprexa
   Hypernatremia: Improving with FH20
   Renal Failure: Improved from last PM --> cont to trend
   Remainder of issues per ICU team.
   ICU Care
   Code status: Full code
   Disposition :Transfer to floor

2124-02-02 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Hct 24 --> 20, tranfused 1U, Hct 27-28
   - Continued to be agitated, got haldol 0.5mg IV x2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-2-2**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 84 (64 - 134) bpm
   BP: 136/77(124) {82/41(50) - 136/88(124)} mmHg
   RR: 24 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,925 mL
                                                                    607 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,335 mL
                                                                    607 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,275 mL
                                                                    520 mL
   Urine:
                                                                  1,275 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    650 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Gen: pleasant, calm, disoriented to place/date
   CV: RRR, no m/r/g
   Lungs: CTAB
   Abdomen: soft, unchanged distension, + bowel sounds. Nontender to
   palpation
   Extremities: WWP, no edema.
   Labs / Radiology
   141 K/uL
   9.3 g/dL
   47 mg/dL
   1.8 mg/dL
   21 mEq/L
   3.2 mEq/L
   47 mg/dL
   116 mEq/L
   145 mEq/L
   27.7 %
   9.6 K/uL
        [image002.jpg]
                             [**2124-1-31**]  03:43 AM
                             [**2124-1-31**]  09:37 AM
                             [**2124-1-31**]  02:52 PM
                             [**2124-1-31**]  09:10 PM
                             [**2124-2-1**]  02:43 AM
                             [**2124-2-1**]  11:12 AM
                             [**2124-2-1**]  03:03 PM
                             [**2124-2-1**]  03:05 PM
                             [**2124-2-1**]  07:50 PM
                             [**2124-2-2**]  01:10 AM
   WBC
   13.1
   10.7
   9.6
   Hct
   24.4
   27.2
   26.9
   25.2
   24.4
   20.3
   23.6
   28.6
   27.7
   Plt
   128
   132
   141
   Cr
   2.0
   2.6
   2.3
   2.2
   1.9
   1.8
   Glucose
   177
   197
   125
   143
   108
   47
   Other labs: PT / PTT / INR:11.5/19.1/1.0, CK / CKMB /
   Troponin-T:55//<0.01, Alk Phos / T Bili:/0.7, LDH:139 IU/L, Ca++:8.1
   mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Assessment and Plan: 87 year old M Alzheimer
s, prostate cancer,
   chronic kidney disease who presents with shortness of breath and found
   to have grossly heme positive stool with acute HCT drop, s/p EGD
   showing numerous bleeding ulcers that were clotted
   # GI bleed: Most likely secondary to duodenal ulcers, now s/p clotting.
   Hematocrit dropped from 24 --> 20 yesterday, transfused 1U and Hct
   stable at 27-28.
   - F/u with GI re: whether they plan to scope today.
   - Continue transfusion goal to >25
   - Change to Q8h Hct
   - Large bore IV x 2 (18 gauge)
   - Make sure remains cross matched for 4 units
   - On protonix 40 [**Hospital1 **]
   - F/u with GI for any further recs
   - Check gastrin level
   - Check INR in case further bleeding may be exacerbated by nutritional
   status from being NPO.
   # FEN:
   - NPO for possible scope today
   - Nutrition recs:
   - Multivitamin PO or TPN
   - Check triglycerides
   - Speech and swallow evaluation prior to diet advancement
   # Alzheimer's: remains at baseline, on standing and PRN meds, has
   gotten several doses of haldol
   - Continue Namenda 10mg [**Hospital1 **]
   - Seroquel 12.5 mg [**Hospital1 **]
   - PRN Olanzapine for agitation
   - 1:1 sitter as needed
   - EKG today.
 check QTc
   #) Abdominal distension
likely constipation as has not moved bowels in
   several days.
   - Colace/senna bowel regimen
   #) Hypernatremia--Improved with 3L D5W. Most recently 145.
   - Check PM lytes, if elevated will administer 1L D5W
   # Acute on chronic renal failure: thought to be obstructive, resolved
   with catheterization, creatinine a baseline
   - Resume Flomax today (held yesterday in setting of decreasing Hct but
   BPs remained stable).
   # Blood sugar control: Elevated blood sugars but hypoglycemic at 47
   last night.
   - D/c insulin sliding scale when NPO and not receiving fluids.
   # Depression: Continue Seroquel.
   # BPH:
   - Resume flomax
   # Prostate cancer: No recent record. Appears to have been treated and
   not currently active.
   # Pain: Continue gabapentin. Hold tramadol as may cause hypotension.
   # Med Rec: Hold lasix, Ambien. Continue folic acid.
   # Prophylaxis: pneumoboots in setting of GI bleed
   # Access: peripherals X 2 large bore
   # Communication: Patient , daughter
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement. Can be called out
   today.

2124-02-02 10:01:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   more alert this AM
   24 Hour Events:
   s/p 1 unit pRBCs yesterday after melanotic stool - none further
   ovrnight
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-2-2**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.7
   HR: 95 (64 - 134) bpm
   BP: 119/101(106) {82/41(50) - 136/101(124)} mmHg
   RR: 22 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,925 mL
                                                                    770 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,335 mL
                                                                    770 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,275 mL
                                                                    640 mL
   Urine:
                                                                  1,275 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    650 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   141 K/uL
   120 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   43 mg/dL
   115 mEq/L
   144 mEq/L
   26.5 %
   9.6 K/uL
        [image002.jpg]
                             [**2124-1-31**]  09:37 AM
                             [**2124-1-31**]  02:52 PM
                             [**2124-1-31**]  09:10 PM
                             [**2124-2-1**]  02:43 AM
                             [**2124-2-1**]  11:12 AM
                             [**2124-2-1**]  03:03 PM
                             [**2124-2-1**]  03:05 PM
                             [**2124-2-1**]  07:50 PM
                             [**2124-2-2**]  01:10 AM
                             [**2124-2-2**]  07:26 AM
   WBC
   10.7
   9.6
   Hct
   27.2
   26.9
   25.2
   24.4
   20.3
   23.6
   28.6
   27.7
   26.5
   Plt
   132
   141
   Cr
   2.6
   2.3
   2.2
   1.9
   1.8
   1.7
   Glucose
   197
   125
   143
   108
   47
   120
   Other labs: PT / PTT / INR:11.5/19.1/1.0, CK / CKMB /
   Troponin-T:55//<0.01, Alk Phos / T Bili:/0.7, LDH:139 IU/L, Ca++:7.9
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   87 yr old with advanced Alzheimer
s, CKD, prostate ca, hx of UGI
   bleed/mild gastritis
94. Here with GI bleed/Blood loss anemia due to
   duodenal ulcer
   UGIB: had melana episiode x1 yesterday but Hct has remained stable
   after 1 unit yesterday
 will still require serial Hcts though given
   risk of rebleed
   Agitation: cont prn zyprexa
   Hypernatremia: Improved
   Renal Failure: Cr continues to improve
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-1-29**] 12:47 AM
   20 Gauge - [**2124-2-1**] 08:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: